US03991200
Preparation of 2-[2-(3-Dimethylaminopropylamino)-5-thiadiazolyl]-1-methyl-5-nitroimidazole
A mixture consisting of 3.8 gm., 0.0155 mole of 2-(2-chloro-5-thiadiazolyl)-1-methyl-5-nitroimidazole, prepared as in Example 16 2.5 gm., 0.029 mole of 3-dimethylaminopropylamine, 2.1 gm. 0.025 mole, of sodium bicarbonate and 100 ml. of benzene is refluxed for 22 hours. The reaction mixture is cooled to room temperature, washed with aqueous sodium bicarbonate and sodium chloride solutions. Cooling to 5° C. gives a crystalline precipitate which is collected and recrystallized from benzene to give the pure compound melting at 153°-154° C. More product is obtained from the mother liquors to give an overall yield of 3.0 gm.

reactant | 2-(2-chloro-5-thiadiazolyl)-1-methyl-5-nitroimidazole | 0.0155 mole | ClN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H6ClN5O2S
reactant | 3-dimethylaminopropylamine | 0.029 mole | CN(CCCN)C | C5H14N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-[2-(3-Dimethylaminopropylamino)-5-thiadiazolyl]-1-methyl-5-nitroimidazole | CN(CCCNN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C)C | C11H19N7O2S
